US04906281
To a stirred, hot (75° C.) mixture of 1.4 g (0.025 mole) of iron powder in 200 mL of acetic acid was added 1.5 g (0.0042 mole) of 9-(4-chloro-2-fluoro-5-nitrophenyl)imino-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-thione. The mixture was stirred at 75° C. for one hour, then filtered and the filtrate evaporated under reduced pressure leaving a residue. The residue was partitioned between ethyl acetate and an aqueous, saturated sodium bicarbonate solution. The organic phase was separated, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure to yield 1.1 g of 9-(5-amino-4-chloro-2-fluorophenyl)imino-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-thione as a solid, mp 59°-61° C.

reactant | 9-(4-chloro-2-fluoro-5-nitrophenyl)imino-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-thione | 0.0042 mole, 1.5 g | ClC1=CC(=C(C=C1[N+](=O)[O-])N=C1SC(N2CCCCN12)=S)F | C12H10ClFN4O2S2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.025 mole, 1.4 g | [Fe] | Fe
product | 9-(5-amino-4-chloro-2-fluorophenyl)imino-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-thione | 1.1 g | NC=1C(=CC(=C(C1)N=C1SC(N2CCCCN12)=S)F)Cl | C12H12ClFN4S2
